US08808703B2
To a solution of (5R,9R)-9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid (1 eq) and HBTU (1.2 eq) in DCM (0.06 M) was added DIEA (3.5 eq), followed by (1-aminocyclopropyl) methanol hydrochloride (1.2 eq). The reaction was stirred at room temperature for 2 hr. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 30-50% EtOAc/Hex to give (9H-fluoren-9-yl)methyl (R)-3-((R)-2-dodecanamido-3-(hexadecyloxy)propylthio)-1-(1-(hydroxymethyl)cyclopropylamino)-1-oxopropan-2-ylcarbamate.

reactant | (5R,9R)-9-dodecanamido-1-(9H-fluoren-9-yl)-3-oxo-2,11-dioxa-7-thia-4-azaheptacosane-5-carboxylic acid | 1 eq | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@H](NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C(=O)O)COCCCCCCCCCCCCCCCC | C49H78N2O6S
reactant | HBTU | 1.2 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | (1-aminocyclopropyl) methanol hydrochloride | 1.2 eq | Cl.NC1(CC1)CO
solvent | DCM | 0.06 M | C(Cl)Cl | CH2Cl2
product | (9H-fluoren-9-yl)methyl (R)-3-((R)-2-dodecanamido-3-(hexadecyloxy)propylthio)-1-(1-(hydroxymethyl)cyclopropylamino)-1-oxopropan-2-ylcarbamate | C(CCCCCCCCCCC)(=O)N[C@@H](CSC[C@@H](C(=O)NC1(CC1)CO)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)COCCCCCCCCCCCCCCCC | C53H85N3O6S
